US05478840
(3-Ethoxycarbonyl-6,11-dihydrodibenz[b,e]oxepin-11-yliden)acetonitrile (Compound 2-a)
Diethyl (cyanomethyl)phosphonate (52 ml) was dissolved in 200 ml of THF, and 12.8 g of sodium hydride (60% oily) was added to the solution under ice cooling, followed by stirring for one hour. To the mixture was added 200 ml of a solution of 17.3 g of ethyl 11-oxo-6,11-dihydrodibenz[b,e]oxepin-3-carboxylate in THF, and the mixture was heated under reflux for 3 hours. After cooling, ice chips were added to the reaction mixture, and the mixture was then diluted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After the solvent was distilled off under reduced pressure, the residue was purified by silica gel column chromatography [eluent: hexane/ethyl acetate (2/1)] to give 11.5 g (58%) of the product as a colorless oily substance.

reactant | Diethyl (cyanomethyl)phosphonate | 52 ml | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium hydride | 12.8 g | [H-].[Na+]
reactant | ethyl 11-oxo-6,11-dihydrodibenz[b,e]oxepin-3-carboxylate | 17.3 g | O=C1C2=C(OCC3=C1C=CC=C3)C=C(C=C2)C(=O)OCC | C17H14O4
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-Ethoxycarbonyl-6,11-dihydrodibenz[b,e]oxepin-11-yliden)acetonitrile | 11.5 g, 58% | C(C)OC(=O)C=1C=CC2=C(OCC3=C(C2=CC#N)C=CC=C3)C1 | C19H15NO3
